US04053471
A. N-[[2-[3-(Dimethylamino)propoxy]phenyl]methylene]benzeneethanamine
A solution of 32.5 g of 2-(3-dimethylaminopropoxy)benzaldehyde and 18.9 g of phenethylamine in 150 ml of toluene is heated at reflux for 1 hour. After 30 minutes, one mole equivalent of water is collected in a Dean-Stark trap. After cooling to approximately 50° C., the solvent is removed using a rotary evaporator and the oily residue is distilled to give 36.2 g of the title compound, boiling point 165°-167° C. at 0.05 mm of Hg.

reactant | 2-(3-dimethylaminopropoxy)benzaldehyde | 32.5 g | CN(CCCOC1=C(C=O)C=CC=C1)C | C12H17NO2
reactant | phenethylamine | 18.9 g | C(CC1=CC=CC=C1)N | C8H11N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | N-[[2-[3-(Dimethylamino)propoxy]phenyl]methylene]benzeneethanamine | 36.2 g | CN(CCCOC1=C(C=CC=C1)C=NCCC1=CC=CC=C1)C | C20H26N2O
